US06248765B1
Cyclohexyl 4-(3-(1H-imidazol-4-yl)propyloxy)phenyl ketone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of cyclohexyl 4-hydroxyphenyl ketone are treated as described in Example 76.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | cyclohexyl 4-hydroxyphenyl ketone | 6 mmol | OC1=CC=C(C=C1)C(=O)C1CCCCC1 | C13H16O2
product | Cyclohexyl 4-(3-(1H-imidazol-4-yl)propyloxy)phenyl ketone | N1C=NC(=C1)CCCOC1=CC=C(C=C1)C(=O)C1CCCCC1 | C19H24N2O2
